US08193237B2
1-(3-Bromophenyl)cyclopropanecarbonitrile (Reference compound 25-1)
3-Bromophenylacetonitrile (5.0 g, 26 mmol) and 1,2-dibromoethane (6.6 mL, 77 mmol) were added to a solution of benzyltriethylammonium chloride (0.30 g, 1.3 mmol) in 50% sodium hydroxide aqueous solution (20 mL), and the mixture was stirred at room temperature overnight. Ice-water (70 mL) was added to the reaction mixture, and the whole was extracted with ethyl acetate (50 mL). The organic layer was washed with brine (30 mL), and dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography to give the title reference compound (5.4 q) as brown oil (yield 95%).

reactant | 3-Bromophenylacetonitrile | 26 mmol, 5.0 g | BrC=1C=C(C=CC1)CC#N | C8H6BrN
reactant | 1,2-dibromoethane | 77 mmol, 6.6 mL | BrCCBr | C2H4Br2
catalyst | benzyltriethylammonium chloride | 1.3 mmol, 0.30 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | sodium hydroxide | 20 mL | [OH-].[Na+]
product | 1-(3-Bromophenyl)cyclopropanecarbonitrile | yield 95% | BrC=1C=C(C=CC1)C1(CC1)C#N | C10H8BrN
